US07101880B2
To a mixture of N-(methoxy-phenyl-methylene)methansulfonamide (250 mg, 0.616 mmol) and 2-amino-3-cyclohexylpropionic acid [1-(benzoxazol-2-ylhydroxymethyl)-propyl]amide (255 mg, 0.616 mmol) in dry acetonitile (4 mL) at room temperature was added DBU (0.37 mL, 2.46 mmol), and the mixture was stirred at the same temperature overnight. After a removal of the solvent, the reaction mixture was partitioned between ethyl acetate and 1N-HCl solution, washed brine and then water. The organic extracts were dried, concentrated in vacuo, and purified by flash chromatography on silica gel (eluted with EtOAc/hexanes=3/1) to yield 250 mg of N-[1-(benzoxazol-2-yl-hydroxymethyl)propyl]-3-cyclohexyl-2-[(methanesulfonyliminophenylmethyl)amino]-propionamide.

reactant | N-(methoxy-phenyl-methylene)methansulfonamide | 0.616 mmol, 250 mg | COC(=NS(=O)(=O)C)C1=CC=CC=C1 | C9H11NO3S
reactant | 2-amino-3-cyclohexylpropionic acid [1-(benzoxazol-2-ylhydroxymethyl)-propyl]amide | 0.616 mmol, 255 mg | O1C(=NC2=C1C=CC=C2)C(C(CC)NC(C(CC2CCCCC2)N)=O)O | C20H29N3O3
reactant | DBU | 2.46 mmol, 0.37 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitile | 4 mL | C(C)#N | C2H3N
product | N-[1-(benzoxazol-2-yl-hydroxymethyl)propyl]-3-cyclohexyl-2-[(methanesulfonyliminophenylmethyl)amino]-propionamide | 250 mg | O1C(=NC2=C1C=CC=C2)C(C(CC)NC(C(CC2CCCCC2)NC(C2=CC=CC=C2)=NS(=O)(=O)C)=O)O | C28H36N4O5S
